US07144899B2
Step D: 4-methyl-D-leucyl-N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide
TFA (3 mL) was added to a solution of N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide (80 mg, 0.15 mmol) in CH2Cl2 (6 mL). The solution was stirred at room temperature for 30 min and the solvent was then removed in vacuo. The residue was taken up in DMF and purified by reverse phase HPLC. The product fractions were combined and reduced in vacuo and the residual oil was concentrated repeatedly from Et2O to give the title compound as a white foam. 1H NMR (500 MHz, CD3O): δ 9.52 (s, 1 H), 8.50 (m, 1 H), 7.68 (d, J=2.5 Hz, 1 H), 7.57 (dd, J=2.5, 8.5 Hz, 1 H), 7.50 (d, J=8.0 Hz, 1 H), 4.72 (dd, J=3.5, 8.5 Hz, 1 H), 4.28 (d, J=16.0 Hz, 1 H), 4.24 (d, J=15.5 Hz, 1 H), 4.10 (d, J=16.0 Hz, 1 H), 3.99 (d, J=16.0 Hz, 1 H), 2.91–2.86 (m, 1 H), 2.02 (dd, J=3.5, 15.5 Hz, 1 H), 1.70 (dd, J=8.5, 15.0 Hz, 1 H), 1.06 (s, 9 H), 1.03–0.86 (m, 4 H). HRMS (APCI, M+H): 434.2055 (found); 434.2066 (calculated).

reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide | 0.15 mmol, 80 mg | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)N(CC(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1)C1CC1 | C25H36ClN7O4
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-methyl-D-leucyl-N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide | CC(C[C@@H](N)C(=O)N(CC(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1)C1CC1)(C)C | C20H28ClN7O2
